* ============================================================
* 3.2V 50Ah LiFePO4 Battery Model (50A Continuous Output)
* Terminals: POS NEG SOC_OUT
* ============================================================
.subckt LiFePO4_50Ah POS NEG SOC_OUT

* --- Parameters ---
.param CAP_AH = 50        ; Capacity in Amp-hours
.param R_INT  = 0.0015    ; Internal DC resistance (1.5 mOhm)
.param R_DIFF = 0.0020    ; Diffusion resistance (2.0 mOhm)
.param C_DIFF = 5000      ; Diffusion capacitance (5000 Farads)

* --- 1. State of Charge (SOC) Integrator ---
* Capacity in Coulombs = 50Ah * 3600s = 180,000 C
* A 180kF capacitor charged with 1A loses 1V in 180,000s (50 hours).
* 1V at SOC_OUT = 100% SOC, 0V = 0% SOC.
C_soc SOC_OUT 0 {CAP_AH * 3600} ic=1.0
R_self_discharge SOC_OUT 0 10 Meg ; High resistance self-discharge

* Current sensing into SOC integrator (Current leaving POS discharges C_soc)
G_soc_discharge SOC_OUT 0 Value = { I(V_sense) / (CAP_AH * 3600) }
V_sense POS POS_int 0V

* --- 2. LiFePO4 Open Circuit Voltage (OCV) Lookup ---
* LiFePO4 OCV curve: Extremely flat 3.3V-3.2V plateau, sharp knees at <10% and >90%
B_ocv OCV_node NEG Value = { 2.8 + 0.5*V(SOC_OUT) + 0.15*ln(V(SOC_OUT)+0.001) - 0.15*ln(1.001-V(SOC_OUT)) }

* --- 3. Internal Impedance & Transient Relaxation ---
R_internal POS_int OCV_int {R_INT}
R_transient OCV_int OCV_node {R_DIFF}
C_transient OCV_int OCV_node {C_DIFF}

.ends LiFePO4_50Ah